US03953597
The crude 6-amino-9-(2,6-dichlorobenzyl)purine obtained from the initial reaction was dissolved in one liter of acetic acid. A 30% aqueous solution of hydrogen peroxide was then added in the amount of 350 milliliters. The solution was allowed to stand for 5 days at room temperature, after which about 400 milliliters of water was added and the solution was cooled. The resulting precipitate was recovered by filtration, reslurried in 500 milliliters of a 30% aqueous solution of acetic acid, and then in one liter of water. The solids recovered from the aqueous slurry were vacuum dried to yield 75 grams of a crude 6-amino-9-(2,6-dichlorobenzyl)purine-N1 -oxide having a melting point of 296°-301° C, representing a 40 percent yield. An analytical sample of the same having a melting point of 298°-302° C. was prepared by recrystallization from acetic acid.

reactant | 6-amino-9-(2,6-dichlorobenzyl)purine | NC1=C2N=CN(C2=NC=N1)CC1=C(C=CC=C1Cl)Cl | C12H9Cl2N5
reactant | hydrogen peroxide | OO | H2O2
reactant | water | about 400 milliliters | O | H2O
solvent | acetic acid | one liter | C(C)(=O)O | C2H4O2
product | 6-amino-9-(2,6-dichlorobenzyl)purine-N1 -oxide | 75 grams, 40 percent yield | NC1=C2N=CN(C2=NC=[N+]1[O-])CC1=C(C=CC=C1Cl)Cl | C12H9Cl2N5O
